US20010047038A1
2-[[(5-Methyl-1H-benzimidazol-2-yl)thio]methyl]benzenamine
The title compound was prepared by the method of Example 1 using 2.50 g of 2-mercapto-5-methylbenzimidazole instead of 2-mercaptobenzimidazole and 2.71 g of 2-(chloromethyl)aniline hydrochloride instead of 2-(chloromethyl)-N,N-dimethylaniline in isopropyl alcohol. The basic extraction used 5% sodium hydroxide instead of sodium carbonate. Washing the solid residue from the dichloromethane extract with additional dichloromethane gave 1.65 g of the title compound. Analysis. Calc'd. for C15H15N3S: C, 66.89; H, 5.61; N, 15.60; S, 11.90. Found: C, 65.78; H, 5.48; N, 15.54; S, 11.94.

reactant | 2-mercapto-5-methylbenzimidazole | 2.50 g | SC=1NC2=C(N1)C=CC(=C2)C | C8H8N2S
reactant | 2-(chloromethyl)aniline hydrochloride | 2.71 g | Cl.ClCC1=C(N)C=CC=C1
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-[[(5-Methyl-1H-benzimidazol-2-yl)thio]methyl]benzenamine | 1.65 g | CC1=CC2=C(NC(=N2)SCC2=C(C=CC=C2)N)C=C1 | C15H15N3S
